US09353082B2
N-cyclopentyl-N-methyl-4-(2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)-1H-imidazole-1-carboxamide
A 20% toluene solution of phosgene (0.590 mL, 1.121 mmol) was added dropwise at room temperature to a stirred solution of 4-(3-amino-4-hydroxyphenyl)-N-cyclopentyl-N-methyl-1H-imidazole-1-carboxamide (0.259 g, 0.862 mmol) in dichloromethane (5 mL) and the off-white suspension was allowed to stir for 5 h. Water was added and the organic layer was diluted with a mixture of dichloromethane/isopropanol (7:3). The organic layer was separated, dried (MgSO4), filtered and evaporated to give an off-white solid that was triturated with hot methanol. Filtration and drying gave the product as an off-white solid (90 mg, 30%).

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | phosgene | 1.121 mmol, 0.590 mL | C(=O)(Cl)Cl | CCl2O
reactant | 4-(3-amino-4-hydroxyphenyl)-N-cyclopentyl-N-methyl-1H-imidazole-1-carboxamide | 0.862 mmol, 0.259 g | NC=1C=C(C=CC1O)C=1N=CN(C1)C(=O)N(C)C1CCCC1 | C16H20N4O2
reactant | Water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane isopropanol | ClCCl.C(C)(C)O
product | N-cyclopentyl-N-methyl-4-(2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)-1H-imidazole-1-carboxamide | 90 mg, 30% | C1(CCCC1)N(C(=O)N1C=NC(=C1)C=1C=CC2=C(NC(O2)=O)C1)C | C17H18N4O3
